Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
chest tube placement
 
History of Present Illness:
Mr ___ is a pleasant ___ with hx of bronchiectasis with 
mild obstruction on PFTs, BPH who presents with dyspnea on 
exertion x1 month.  He normally runs on a daily basis and noted 
that a few weeks ago he was becoming increasingly SOB with 
running and also noticed intermittent periods of CP, not 
correlated with exercise, worse with deep breaths and leaning 
forward.  He was unable to continue his runs around ___ 
due to this.  Pt initially presented to his PCP for evaluation 
and was found to have a large, loculated pleural effusion on 
CXR/CT without any clear indication of underlying cause.  He was 
scheduled to have a ___ on ___ however on ___ had worsening 
CP, SOB and insomnia and therefore contacted IP who recommended 
ED evaluation for drainage.  He denies joint pains, wt recent wt 
loss (pt states he lost 10 lbs ___ yrs ago but weight hs been 
stable since).  C/o mild muscle soreness in shoulders 
bilaterally. No new rash.  No conjestion, although does complain 
of cough in AM x 2wks which is non-productive, non-bloody. He 
denies having had any recent respiratory illness or trauma.  No 
sick contacts, no travel in ___ yrs. States that he felt that his 
HR increased when all this started.  Decreased urine stream is a 
chronic problem for him, denies dysuria.   

In the ED, initial vitals were: 98.8 103 ___ 98% RA.  IP 
was consulted and CT was placed with labs sent on pleural fluid 
as well as blood culture. Approxamately 900 ccs were drained.  
Labs were notable for crit of 38.0 plts of 511.  He was admitted 
to medicine for post-procedure monitoring.

On the floor, mild pain at CT site.  Difficulty with deep 
breaths due to pain, but no SOB.  C/o slightly hoarse voice.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. 10 pt ros otherwise 
negative.

 
Past Medical History:
HERNIA x2
TREMOR 
VARICOSE VEINS 
CYSTITIS 
BENIGN PROSTATIC HYPERTROPHY 
H/O BRONCHIECTASIS 
 
Social History:
___
Family History:
Mother:
DIABETES TYPE ___ 
PAROXYSMAL ATRIAL FIBRILLATION 
 
Physical Exam:
Vitals: 98.2 140/86 91 18 100 RA
Constitutional: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
voice does not sound hoarse
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, no 
friction rub noted when pt is seated and leaning forward
Respiratory: Decreased breath souunds on R side almost all the 
way up his back.  Chest tube is in place with mild surrounding 
edema, draining pink fluid.
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, no CCE
Neuro: aaox3 CNII-XII and strength grossly intact 
Skin: no rashes or lesions
 
Pertinent Results:
___ 07:14PM OTHER BODY FLUID  PH-7.45
___ 06:45PM PLEURAL  TOT PROT-5.3 GLUCOSE-115 CREAT-0.7 
LD(LDH)-201 AMYLASE-55 ALBUMIN-2.9
___ 06:45PM PLEURAL  WB___-___* RBC-___* POLYS-42* 
LYMPHS-33* MONOS-0 EOS-3* MESOTHELI-1* MACROPHAG-21*
___ 05:05PM URINE  HOURS-RANDOM
___ 05:05PM URINE  HOURS-RANDOM
___ 05:05PM URINE  UHOLD-HOLD
___ 05:05PM URINE  GR HOLD-HOLD
___ 05:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:05PM URINE  RBC-2 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 05:05PM URINE  MUCOUS-RARE
___ 03:36PM   LACTATE-1.1
___ 03:23PM   GLUCOSE-113* UREA N-15 CREAT-0.8 SODIUM-133 
POTASSIUM-4.3 CHLORIDE-96 TOTAL CO2-30 ANION GAP-11
___ 03:23PM   WBC-9.4 RBC-4.17* HGB-12.3* HCT-38.0* MCV-91 
MCH-29.5 MCHC-32.4 RDW-11.9 RDWSD-39.5
___ 03:23PM   NEUTS-73.2* LYMPHS-17.2* MONOS-8.7 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-6.84* AbsLymp-1.61 AbsMono-0.81* 
AbsEos-0.05 AbsBaso-0.02
___ 03:23PM   PLT COUNT-511*
___ 03:23PM   ___ PTT-34.8 ___

LABS:
See below, prior labs reviewed in ___
Prior records and imaging reviewed by me

MICRO: blood and pleural fluid cxs pending

STUDIES:
CT ___
New massive loculated left pleural effusion.  No precise 
indication of underlying cause.  No additional pleural 
abnormality, no lymphadenopathy, no left hilar mass.  The right 
lung shows mild to moderate bronchiectasis and mild non 
characteristic subpleural scarring. 

CXR ___
Persistent large loculated left pleural effusion resulting in 
near complete opacification of the left hemi thorax. Overall 
size is unchanged from prior exam from ___. 

POST-PROCEDURE CXR
Similar appearance to large loculated left pleural effusion with 
now a pigtail catheter projecting over the left lower 
hemithorax.  No large pneumothorax seen. 

EKG: NSR, inferlatoral q waves

 
Brief Hospital Course:
Pleasant ___ yo M, previously active with minimal medical hx, 
presents with new pleural effusion of unclear etiology.

Pleural effusion: s/p chest tube placement. tube removed prior 
to discharge and patient remained asymptomatic and without SOB. 
Fluid studies inconclusive at time of discharge but suspicion 
for malignancy remains high.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pleural effusion
Lung mass concerning for cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for shortness of breath. This was due to fluid 
build up around the lung (pleural effusion). You had a chest 
tube placed to drain the fluid. A CT scan found a lung mass 
which is concerning for cancer. The fluid that was removed is 
being tested for cancer and the results will determine if you 
need a biopsy. The interventional pulmonary doctors ___ 
___ to schedule follow up to discuss these results and schedule 
a biopsy if needed. If you do not hear from them by ___ please call ___ to schedule an appointment.
 
Followup Instructions:
___